US08022222B2
Using the method of Example 3, Step A, 2,6-difluorophenol (821 mg, 6.31 mmol), 60% sodium hydride in mineral oil (252 mg, 6.31 mmol), and 2-chloro-4-nitropyridine (1.00 g, 6.31 mmol) were reacted to provide 2-chloro-4-(2,6-difluorophenoxy)pyridine (1.44 g, 94% yield) as an oil. 1H NMR (CDCl3) δ 8.27 (d, 1H), 7.26 (m, 1H), 7.04-7.10 (m, 2H), 6.80-6.86 (m, 2H).

reactant | 2,6-difluorophenol | 6.31 mmol, 821 mg | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(2,6-difluorophenoxy)pyridine | 1.44 g, 94% yield | ClC1=NC=CC(=C1)OC1=C(C=CC=C1F)F | C11H6ClF2NO
